US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(4-phenylpiperazin-1-yl)phenyl)-pyrrolidine-2,4-dione
The compound was synthesized starting from 1H-benzo[d]imidazol-5-amine (1.01 g, 8.27 mmol), 4-(4-phenylpiperazin-1-yl)benzaldehyde (2.2 g, 8.27 mmol), mono-tert-butyl malonate (1.98 g, 12.40 mmol), 1-isocyano-2-methylpropan-2-yl methyl carbonate (1.3 g, 8.27 mmol) in MeOH/CH2Cl2 1:1 (80 ml) with stirring for 4 days and sodium tert.-butoxide (1.0 g, 8.59 mmol) according to method 5.

reactant | 1H-benzo[d]imidazol-5-amine | 8.27 mmol, 1.01 g | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-(4-phenylpiperazin-1-yl)benzaldehyde | 8.27 mmol, 2.2 g | C1(=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=O)C=C1 | C17H18N2O
reactant | mono-tert-butyl malonate | 12.40 mmol, 1.98 g | C(CC(=O)[O-])(=O)OC(C)(C)C
reactant | 1-isocyano-2-methylpropan-2-yl methyl carbonate | 8.27 mmol, 1.3 g | C(OC(C[N+]#[C-])(C)C)(OC)=O | C7H11NO3
reactant | sodium tert.-butoxide | 8.59 mmol, 1.0 g | CC(C)([O-])C.[Na+]
solvent | MeOH CH2Cl2 | 80 ml | CO.C(Cl)Cl
product | 1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(4-phenylpiperazin-1-yl)phenyl)-pyrrolidine-2,4-dione | N1C=NC2=C1C=CC(=C2)N2C(CC(C2C2=CC=C(C=C2)N2CCN(CC2)C2=CC=CC=C2)=O)=O | C27H25N5O2
